US04940710
1-Ethyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(3-thienyl)-1piperazinyl]-3-quinolinecarboxylic acid
A mixture of 1 g of 2-(3-thienyl)piperazine and 538 mg of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid in 8 ml of pyridine was further reacted as described in Example 26 giving 220 mg of the desired product, mp 198°-200° C.

reactant | 2-(3-thienyl)piperazine | 1 g | S1C=C(C=C1)C1NCCNC1 | C8H12N2S
reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 538 mg | ClC1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C12H9ClFNO3
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 1-Ethyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(3-thienyl)-1piperazinyl]-3-quinolinecarboxylic acid | 220 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C1=CSC=C1)F)=O)C(=O)O | C20H20FN3O3S
